US07645784B2
2-(1-Methyl-1H-indol-3-yl)-N-[3-(trifluoromethyl)phenyl]acetamide
The title compound was synthesized in 62% yield (41.1 mg) according to a procedure described in Example 107 starting from (1-methyl-1H-indol-3-yl)-acetic acid and 3-trifluoromethyl-aniline. Calculated for C16H23N3O m/z: 332.11, found 332.89 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.74 (s, 2H), 3.75 (s, 3H), 7.01 (m, 1H), 7.14 (m, 1H), 7.25 (s, 1H), 7.38 (t, J=8.1 Hz, 2H), 7.53 (t, J=7.8 Hz, 1H), 7.60 (d, J=8.1 Hz, 1H), 7.79 (d, J=8.6 Hz, 1H), 8.10 (s, 1H), 10.43 (s, 1H).

reactant | (1-methyl-1H-indol-3-yl)-acetic acid | CN1C=C(C2=CC=CC=C12)CC(=O)O | C11H11NO2
reactant | 3-trifluoromethyl-aniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
product | 2-(1-Methyl-1H-indol-3-yl)-N-[3-(trifluoromethyl)phenyl]acetamide | 62% yield | CN1C=C(C2=CC=CC=C12)CC(=O)NC1=CC(=CC=C1)C(F)(F)F | C18H15F3N2O
